US09233979B2
(R)-1-(3-isopropyl-1-trityl-1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridin-7-yl)-3-(1-phenylethyl)urea (75 mg, 0.123 mmol) was taken in TFA (0.5 mL) and stirred at room temperature for 30 minutes before triethylsilane (155 uL, 0.97 mmol) was added. The reaction mixture was stirred for 15 minutes at room temperature then heated at 80° C. for 30 minutes before it was concentrated, taken in DCM and washed with aqueous sodium bicarbonate, brine, dried with sodium sulfate and concentrated. Purification of the residue by flash column (0-15% MeOH-DCM) gave (R)-1-(3-isopropyl-1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridin-7-yl)-3-(1-phenylethyl)urea. MS ESI calc'd. for C20H24N6O [M+H]+ 365. found 365. 1H NMR (ppm, 500 MHz, DMSO-d6) δ 7.34-7.23 (m, 4H), 7.18 (m, 1H), 6.40 (s, 1H), 4.90 (m, 1H), 3.40 (m, 2H), 3.22 (m, 2H), 2.90 (m, 1H), 1.38 (d, J=7.0, 3H), 1.07 (d, J=9.4, 6H).

reactant | (R)-1-(3-isopropyl-1-trityl-1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridin-7-yl)-3-(1-phenylethyl)urea | 0.123 mmol, 75 mg | C(C)(C)N1C=2C=3C(=CC(=NC3CC1)NC(=O)N[C@H](C)C1=CC=CC=C1)N(N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C39H38N6O
reactant | triethylsilane | 0.97 mmol, 155 uL | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (R)-1-(3-isopropyl-1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridin-7-yl)-3-(1-phenylethyl)urea | C(C)(C)N1C=2C=3C(=CC(=NC3CC1)NC(=O)N[C@H](C)C1=CC=CC=C1)NN2 | C20H24N6O
